US07598257B2
Step 2. 3-Methyl-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]butanenitrile
To a solution of 4-(1H-pyrazol-4-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidine (0.216 g, 0.684 mmol) in ACN (4 mL, 0.08 mol) was added crude senecionitrile (0.111 g, 1.37 mmol), followed by DBU (200 μL, 0.002 mol) and the resulting mixture was heated to 60° C. for 23 hours. The mixture was cooled to room temperature and the ACN was evaporated. The mixture was diluted with ethyl acetate and washed with dilute HCl and brine. The organic solution was dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (ethyl acetate/hexanes) afforded the desired product.

reactant | 4-(1H-pyrazol-4-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidine | 0.684 mmol, 0.216 g | N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C15H21N5OSi
reactant | ACN | 0.08 mol, 4 mL | C(C)#N | C2H3N
reactant | senecionitrile | 1.37 mmol, 0.111 g | C(C=C(C)C)#N | C5H7N
reactant | DBU | 0.002 mol, 200 μL | C1CCC2=NCCCN2CC1 | C9H16N2
product | 3-Methyl-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]butanenitrile | CC(CC#N)(C)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C14H14N6
